US04098791
In the manner given in Example 2, 4-methyl-1-piperazinecarbonitrile is treated with sodium methoxide in methanol to give methyl 4-methyl-1-piperazinecarboximidate.

reactant | 4-methyl-1-piperazinecarbonitrile | CN1CCN(CC1)C#N | C6H11N3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | methyl 4-methyl-1-piperazinecarboximidate | CN1CCN(CC1)C(OC)=N | C7H15N3O
